US06972340B2
benzhydryl 2-{4-[2-(acetylamino)-3-oxo-3-({5-oxo-5-[2-(trimethylsilyl)ethoxy]pentyl}amino)propyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate
2-(trimethylsilyl)ethyl 5-[(tert-butoxycarbonyl)amino]pentanoate (317 mg, 1.0 mmol) was treated with 4N HCl in dioxane at room temperature for 30 minutes, then concentrated under reduced pressure. The residue (665 mg, 1.0 mmol), N-acetyl-4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenylalanine (665 mg, 1.0 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (321 mg, 1.0 mmol) and diisopropylethylamine (521 μL, 3.0 mmol) in N,N-dimethylformamide (2 mL) was stirred at ambient temperature overnight, diluted with ethyl acetate and washed with aqueous NaHCO3 (1×30 mL), brine (1×30 mL), dried (MgSO4), filtered and concentrate under reduced pressure. The residue was purified on silica gel eluting with ethyl acetate to provide of titled compound 480 mg. MS (APCI(+)) m/e 864 (M+H)+.

reactant | 2-(trimethylsilyl)ethyl 5-[(tert-butoxycarbonyl)amino]pentanoate | 1.0 mmol, 317 mg | C(C)(C)(C)OC(=O)NCCCCC(=O)OCC[Si](C)(C)C | C15H31NO4Si
reactant | HCl | 4N | Cl | ClH
reactant | N-acetyl-4-{2-[(benzhydryloxy)carbonyl][tert-butoxy(oxo)acetyl]anilino}-3-ethylphenylalanine | 1.0 mmol, 665 mg | C(C)(=O)N[C@@H](CC1=CC(=C(C=C1)N(C1=C(C=CC=C1)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C(=O)OC(C)(C)C)=O)CC)C(=O)O | C39H40N2O8
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 1.0 mmol, 321 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 3.0 mmol, 521 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzhydryl 2-{4-[2-(acetylamino)-3-oxo-3-({5-oxo-5-[2-(trimethylsilyl)ethoxy]pentyl}amino)propyl][tert-butoxy(oxo)acetyl]-2-ethylanilino}benzoate | 480 mg | C(C)(=O)NC(CC1=CC(=C(N(C2=C(C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C=CC=C2)C(C(=O)OC(C)(C)C)=O)C=C1)CC)C(NCCCCC(OCC[Si](C)(C)C)=O)=O | C49H61N3O9Si
